US07091353B2
N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-butyramide I-60
To a suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2 mmol) in THF (30 ml) was added butanoyl chloride (0.42 ml, 4 mmol). The mixture was heated to reflux for 18 hours. The reaction was cooled to room temperature, methanol (2 ml) was added, and the mixture stirred for 1 hour. The solvent was evaporated in vacuo leaving a solid that was slurried in diethyl ether (20 ml) and filtered to give 0.55 g (80%) of product as an off-white solid: mp 171–173° C.; 1H NMR (DMSO-d6) d 11.14 (s, 1H), 9.68 (s, 1H), 8.48 (d, J=8.3 Hz, 1H), 7.83 (t, J=7.5 Hz, 1H), 7.61 (d, J=7.2 Hz, 1H), 5.15 (dd, J=5.2 and 12.6 Hz, 1H), 2.96–2.84 (m, 1H), 2.65–2.42 (m, 4H), 2.11–2.06 (m, 1H), 1.73–1.58 (m, 2H), 0.95 (t, J=7.4 Hz, 3H); 13C NMR (DMSO-d6) d 172.70, 171.84, 169.72, 167.70, 166.63, 136.54, 136.07, 131.41, 126.17, 118.23, 116.89, 48.90, 30.91, 21.96, 18.25, 13.46; Anal. Calcd. For C17H17N3O5: C, 59.47; H, 4.99; N, 12.24. Found: C, 59.45; H, 4.82; N, 12.15.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | butanoyl chloride | 4 mmol, 0.42 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-butyramide | 0.55 g, 80% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(CCC)=O)=O)=O | C17H17N3O5
